31
R0102 1 2 2000
R0103 1 3 2000
R0104 1 4 2000
R0506 5 6 1E+3
R0708 7 8 1E+3
R0910 9 10 1E+3
R1109 11 9 1E+3
R1213 12 13 1E+3
R1415 14 15 1E+3
R1617 16 17 1E+3
R1816 18 16 1E+3
R0805 8 5 5E+3
R1512 15 12 5E+3
R1105 11 5 1E+3
R1812 18 12 1E+3
LA 2 19 0
LB 15 20 0
LC 21 15 0
C0805 8 5 1.59235668789809E-7
C1007 10 7 1.59235668789809E-7
C1512 15 12 1.59235668789809E-7
C1714 17 14 1.59235668789809E-7
Q1919 19 19 22 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2319 23 19 22 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2019 20 19 22 NPN 9.9E-1 5E-1 2E-9 4.3429445E-2 2E-9 4.3429445E-2 1E+9
Q0303 3 3 22 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2403 24 3 22 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q1703 17 3 22 NPN 9.9E-1 5E-1 2E-9 4.3429445E-2 2E-9 4.3429445E-2 1E+9
Q0404 4 4 22 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2504 25 4 22 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q1804 18 4 22 NPN 9.9E-1 5E-1 2E-9 4.3429445E-2 2E-9 4.3429445E-2 1E+9
Q2612 26 12 23 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2700 27 0 23 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2814 28 14 24 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2900 29 0 24 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q3016 30 16 25 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q3100 31 0 25 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2626 26 26 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2726 27 26 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2127 21 27 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2828 28 28 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q2928 29 28 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q1729 17 29 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q3030 30 30 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q3130 31 30 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
Q1831 18 31 1 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+9
O0800 8 0 5 0
O1000 10 0 7 0
O1100 11 0 9 0
V0022 0 22 DC 5
V0100 1 0 DC 5
V0600 6 0 PULSE -1 1 0 0 0 1E-2 2E-2 2
V1300 13 0 PULSE -1 1 0 0 0 1E-2 2E-2 2
.TRAN 2E-2 2E-5 TETA 0.5 1
