31
R0102 1 2 1E+9
R0301 3 1 1E+9
R0405 4 5 1E+9
R0604 6 4 1E+9
R0708 7 8 1E+9
R0907 9 7 1E+9
R1011 10 11 2000
R1012 10 12 2000
R1013 10 13 2000
R1415 14 15 1E+3
R1617 16 17 1E+3
R1819 18 19 1E+3
R2018 20 18 1E+3
R2122 21 22 1E+3
R2324 23 24 1E+3
R2526 25 26 1E+3
R2725 27 25 1E+3
R1714 17 14 5E+3
R2421 24 21 5E+3
R2014 20 14 1E+3
R2721 27 21 1E+3
LA 11 28 0
LB 24 29 0
LC 30 24 0
C1714 17 14 1.59235668789809E-7
C1916 19 16 1.59235668789809E-7
C2421 24 21 1.59235668789809E-7
C2623 26 23 1.59235668789809E-7
Q2828 28 28 31 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0128 1 28 31 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q2928 29 28 31 NPN 9.9E-1 5E-1 2E-9 4.3429445E-2 2E-9 4.3429445E-2 1E+30
Q1212 12 12 31 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0412 4 12 31 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q2612 26 12 31 NPN 9.9E-1 5E-1 2E-9 4.3429445E-2 2E-9 4.3429445E-2 1E+30
Q1313 13 13 31 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0713 7 13 31 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q2713 27 13 31 NPN 9.9E-1 5E-1 2E-9 4.3429445E-2 2E-9 4.3429445E-2 1E+30
Q0221 2 21 1 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0300 3 0 1 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0523 5 23 4 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0600 6 0 4 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0825 8 25 7 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0900 9 0 7 NPN 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0202 2 2 10 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0302 3 2 10 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q3003 30 3 10 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0505 5 5 10 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0605 6 5 10 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q2606 26 6 10 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0808 8 8 10 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q0908 9 8 10 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
Q2709 27 9 10 PNP 9.9E-1 5E-1 1E-9 4.3429445E-2 1E-9 4.3429445E-2 1E+30
O1700 17 0 14 0
O1900 19 0 16 0
O2000 20 0 18 0
V0031 0 31 DC 5
V1000 10 0 DC 5
V1500 15 0 PULSE -1 1 0 0 0 1E-2 2E-2 2
V2200 22 0 PULSE -1 1 0 0 0 1E-2 2E-2 2
.TRAN 2E-2 2E-5 TETA 0.5 1
